US06211234B1
A mixture of 1-(3-benzyloxyphenyl)-4-cyano-2-phenylbutan-1-one (2.2 g), toluene (80 mL), trimethyltin chloride (6.17 g) and sodium azide is stirred at 115° C. for 30 hours. The cooled reaction mixture is filtered and the insoluble material is washed with a little ethyl acetate. The combined filtrate plus washings are evaporated and the resulting orange oily solid (3 g) is subjected to flash chromatography on silica gel, eluting with a mixture of dichloromethane and methanol (29:1 v/v), followed by crystallisation from a mixture of ethyl acetate and cyclohexane, to give 5-[4-(3-benzyloxyphenyl)-4-oxo-3-phenylbutyl]-1H-tetrazole (0.86 g), in the form of a white solid, m.p. 136-138° C. [Elemental analysis:- C,72.5;H,5.63; N,14.0%; Calculated:- C,72.3;H,5.56; N,14.1%].

reactant | 1-(3-benzyloxyphenyl)-4-cyano-2-phenylbutan-1-one | 2.2 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(C(CCC#N)C1=CC=CC=C1)=O | C24H21NO2
reactant | trimethyltin chloride | 6.17 g | C[Sn](C)(C)Cl
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | 5-[4-(3-benzyloxyphenyl)-4-oxo-3-phenylbutyl]-1H-tetrazole | 0.86 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(C(CCC1=NN=NN1)C1=CC=CC=C1)=O | C24H22N4O2
